US04596799
To a suspension of 1.1 g of 8-chloro-2-methyl-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-11-one in 20 mL of chlorobenzene is added 680 mg of phosphorous oxychloride. The mixture is heated at 100°-110° for 1 hour, then allowed to cool to room temperature. Methylene chloride (150 mL) is added to the stirred reaction mixture which is then poured into a mixture of ice and aqueous sodium carbonate. After being shaken vigorously, the methylene chloride layer is separated, the aqueous layer is further extracted with 200 ml of diethyl ether; the combined extracts are dried (anhydrous magnesium sulfate), decolorized with charcoal, and evaporated to dryness to yield 8,11-dichloro-2-methyl-5H-pyrrolo[2,1-c][1,4]benzodiazepine as a viscous oil which is used in the next step without further purification.

reactant | 8-chloro-2-methyl-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-11-one | 1.1 g | ClC1=CC2=C(CN3C(C(N2)=O)=CC(=C3)C)C=C1 | C13H11ClN2O
reactant | phosphorous oxychloride | 680 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chlorobenzene | 20 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 8,11-dichloro-2-methyl-5H-pyrrolo[2,1-c][1,4]benzodiazepine | ClC1=CC2=C(CN3C(C(=N2)Cl)=CC(=C3)C)C=C1 | C13H10Cl2N2
